US04826869
To a stirred suspension of 1.5 g (39 mmol) of lithium aluminum hydride in 100 ml of anhydrous tetrahydrofuran was added dropwise, at room temperature, a solution of 7.5 g (35 mmol) of 1-ethyl-2-(3'-aminobenzoyl)pyrrole in 100 ml of anhydrous tetrahydrofuran. The reaction mixture was refluxed for 15 minutes, cooled to 0° C. and the excess reagent destroyed by carefuly adding ethyl acetate, saturated sodium sulfate solution and solid anhydrous sodium sulfate. The insoluble material was separated by filtration and the filtrate evaporated in vacuo. The unstable crude alcohol thus obtained, 1-ethyl-2-(3'-amino-α-hydroxybenzyl)pyrrole (7.5 g, 35 mmol) was dissolved in 100 ml of methanol, cooled to 0° C. and treated with 20 ml of glacial acetic acid and 4.7 g (78 mmol) of sodium cyanoborohydride. The reaction mixture was stirred at room temperature for 3 hours, poured into 600 ml of saturated sodium carbonate solution and the product extracted with ethyl acetate (3×500 ml). The combined extracts were washed with water (3×250 ml), dried and evaporated in vacuo. The residue was purified by column chromatography on 500 g of silica gel, using hexane-ethyl acetate (80:20) as eluant, thus obtaining 5.9 g (84%) of 1-ethyl-2-(3'-aminobenzyl)pyrrole, the title compound, as an oil.

reactant | lithium aluminum hydride | 39 mmol, 1.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-ethyl-2-(3'-aminobenzoyl)pyrrole | 35 mmol, 7.5 g | C(C)N1C(=CC=C1)C(C1=CC(=CC=C1)N)=O | C13H14N2O
reactant | 1-ethyl-2-(3'-amino-α-hydroxybenzyl)pyrrole | 35 mmol, 7.5 g | C(C)N1C(=CC=C1)C(C1=CC(=CC=C1)N)O | C13H16N2O
reactant | sodium cyanoborohydride | 78 mmol, 4.7 g | C(#N)[BH3-].[Na+]
reactant | sodium carbonate | 600 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | methanol | 100 ml | CO | CH4O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 1-ethyl-2-(3'-aminobenzyl)pyrrole | 5.9 g, 84% | C(C)N1C(=CC=C1)CC1=CC(=CC=C1)N | C13H16N2
